US04006183
To a cooled (ice/water) solution of 8.7 g. of α-methylthio-4-trifluoromethyl-o-toluidine predissolved in 50 ml. of acetic acid is added 4.1 ml. of a 30% solution of hydrogen peroxide. The ice/water bath is removed and the reaction mixture is stirred for 90 minutes, after which examination by TLC indicates the presence of essentially all of the sulfinyl compound (reaction complete). The reaction mixture is then treated with 50 ml. of a 10% solution of sodium sulfite and concentrated on a rotary evaporator. The residue is then taken up in chloroform and a 15 % solution of sodium hydroxide. After separation of the phases, the aqueous phase is back-extracted with chloroform and the combined chloroform solution is washed successively with water and brine, dried, evaporated in vacuo to dryness, and the residue recrystallized from chloroform/petroleum ether to yield α-methylsulfinyl-4-trifluoromethyl-o-toluidine, m.p. 121.5°-125° C.

reactant | α-methylthio-4-trifluoromethyl-o-toluidine | CSCC=1C(N)=CC=C(C1)C(F)(F)F | C9H10F3NS
reactant | hydrogen peroxide | OO | H2O2
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | α-methylsulfinyl-4-trifluoromethyl-o-toluidine | CS(=O)CC=1C(N)=CC=C(C1)C(F)(F)F | C9H10F3NOS
